US07501425B1
5-(Aminomethyl)-4-(bicyclo[2.2.1]hept-2-ylamino)-2-(methylthio)pyrimidine (exo)
To a stirred 0° C. suspension of 2.5 g (65.3 mmol) of LAH in 100 mL of tetrahydrofuran is added dropwise a solution of 8.5 g (32.6 mmol) of 4-(bicyclo[2.2.1]hept-2-yl-amino)-2-(methylthio)-5-pyrimidinecarbonitrile in 375 mL of tetrahydrofuran. The reaction is allowed to warm slowly to room temperature overnight. The mixture is recooled to 0° C. and treated with a saturated solution of ammonium sulfate until there is no more effervescence. After stirring for another 15 minutes, the gray solids are filtered and washed four times with hot ethyl acetate. The combined organic washes are concentrated, and the residue is purified by chromatography on silica gel that is eluted with methanol/dichloromethane 1:9 followed by 2:8 to obtain 5.8 g (68%) of the title compound.

reactant | LAH | 65.3 mmol, 2.5 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-(bicyclo[2.2.1]hept-2-yl-amino)-2-(methylthio)-5-pyrimidinecarbonitrile | 32.6 mmol, 8.5 g | C12C(CC(CC1)C2)NC2=NC(=NC=C2C#N)SC | C13H16N4S
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 375 mL | O1CCCC1 | C4H8O
product | 5-(Aminomethyl)-4-(bicyclo[2.2.1]hept-2-ylamino)-2-(methylthio)pyrimidine | 5.8 g, 68% | NCC=1C(=NC(=NC1)SC)NC1C2CCC(C1)C2 | C13H20N4S
